US05852216
Preparation of (3-methoxyphenyl)magnesium chloride
2.04 g (21.4 mmole) magnesium chloride were placed in a 100 ml three-necked flask fitted with a reflux condenser, thermometer and dropping funnel and were covered with 50 ml tetrahydrofuran (THF). 0.82 g (21.0 mmole) of freshly cut potassium was added in portions and the mixture was heated under reflux for 90 minutes, with stirring. Thereafter, 3.05 g (21.4 mmole) 3-chloroanisole, dissolved in 20 ml THF, was added drop-wise with stirring over 30 minutes. After the addition was complete, the mixture was stirred for 20 hours at room temperature and the Grignard compound obtained was used for further reaction.

reactant | magnesium chloride | 21.4 mmole, 2.04 g | [Cl-].[Mg+2].[Cl-]
reactant | potassium | [K] | K
reactant | 3-chloroanisole | 21.4 mmole, 3.05 g | ClC=1C=C(C=CC1)OC | C7H7ClO
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (3-methoxyphenyl)magnesium chloride | COC=1C=C(C=CC1)[Mg]Cl | InChI=1S/C7H7O.ClH.Mg/c1-8-7-5-3-2-4-6-7;;/h2-3,5-6H,1H3;1H;/q;;+1/p-1
